US08314138B2
Synthesis of 4-methyl-2-[6-(methyl-pyridin-4-ylmethyl-amino)-pyrazin-2-yl]-thiazole-5-carboxylic acid 4-fluoro-benzylamide
Following the procedure described in Example 14, making variations as required to replace 4-fluoro-N-methyl-benzylamine with methyl-pyridin-4-ylmethyl-amine to react with 2-(6-iodo-pyrazin-2-yl)-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide, the title compound was obtained in 78% yield. 1H NMR (400 MHz, CD2Cl2) δ 8.63 (s, 1H), 8.51 (d, J=8.0 Hz, 2H), 8.14 (s, 1H), 7.27-7.36 (m, 4H), 6.99-7.08 (m, 2H), 6.18 (bs, 1H), 4.86 (s, 2H), 4.54 (d, J=4.0 Hz, 2H), 3.21 (s, 3H), 2.68 (s, 3H); MS (ES+) m/z 449.2 (M+1), Rt=1.30 min.

reactant | 4-fluoro-N-methyl-benzylamine | FC1=CC=C(CNC)C=C1 | C8H10FN
reactant | methyl-pyridin-4-ylmethyl-amine | CNCC1=CC=NC=C1 | C7H10N2
reactant | 2-(6-iodo-pyrazin-2-yl)-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide | FC1=CC=C(CNC(=O)C2=C(N=C(S2)C2=NC(=CN=C2)I)C)C=C1 | C16H12FIN4OS
product | 4-methyl-2-[6-(methyl-pyridin-4-ylmethyl-amino)-pyrazin-2-yl]-thiazole-5-carboxylic acid 4-fluoro-benzylamide | 78% yield | FC1=CC=C(CNC(=O)C2=C(N=C(S2)C2=NC(=CN=C2)N(CC2=CC=NC=C2)C)C)C=C1 | C23H21FN6OS
